US04066769
3,3'-(2,6-Pyridinediyl)di-5-isoxazolecarboxylic Acid Hydrate
A mixture of 2.5 g. (0.005 mole) of diethyl 3,3'-(2,6-pyridinediyl)di-5-isoxazolecarboxylate and 250 mg. of sodium hydroxide in 50 ml. of water is refluxed for ninety minutes. The reaction mixture is cooled to room temperature and the insoluble material removed by filtration. The filtrate is acidified with concentrated hydrochloric acid. The gelatinous precipitate is removed by filtration and washed with water. There is obtained 610 mg. of a tan solid (38%) melting at 284° (dec.).

reactant | diethyl 3,3'-(2,6-pyridinediyl)di-5-isoxazolecarboxylate | 0.005 mole | N1=C(C=CC=C1C1=NOC(=C1)C(=O)OCC)C1=NOC(=C1)C(=O)OCC | C17H15N3O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3,3'-(2,6-Pyridinediyl)di-5-isoxazolecarboxylic Acid Hydrate | O.N1=C(C=CC=C1C1=NOC(=C1)C(=O)O)C1=NOC(=C1)C(=O)O | InChI=1S/C13H7N3O6.H2O/c17-12(18)10-4-8(15-21-10)6-2-1-3-7(14-6)9-5-11(13(19)20)22-16-9;/h1-5H,(H,17,18)(H,19,20);1H2
